US07067517B2
Methyl-phenyl-carbamic acid 3-(4-nitro-phenyl)-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-3-(4-nitrophenyl)pyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (99%, yellow crystals).

reactant | 1-hydroxy-3-(4-nitrophenyl)pyrazole | ON1N=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O3
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 3-(4-nitro-phenyl)-pyrazol-1-yl ester | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1)OC(N(C1=CC=CC=C1)C)=O | C17H14N4O4
